US05025002
Step (a): Preparation of ethyl(dimethylphosphono)acetate
An amount of 340.8 g of ethyl chloroacetate was mixed with 496 g of trimethyl phosphite in a reactor fitted with a thermometer, nitrogen inlet and a fractionation column (containing 5 mm Raschig rings as packing) topped with a variable reflux condenser. The reactor was heated to enable slow reflux in the column only followed by a slow increase in the temperature from 110 to 150 degrees C. over 10 hours and maintained at about this temperature. The pressure was reduced to 11 mm Hg and volatile material was removed on heating the reactor slowly from 50 to 140 degrees C. The yield of the pure product obtained was 85%.

reactant | ethyl chloroacetate | 340.8 g | ClCC(=O)OCC | C4H7ClO2
reactant | trimethyl phosphite | 496 g | P(OC)(OC)OC | C3H9O3P
product | ethyl(dimethylphosphono)acetate | C(C)OC(CP(=O)(OC)OC)=O | C6H13O5P
